US20010016207A1
A. 4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester
4-Fluorobenzoic acid methyl ester (200 mmol), 1-benzyl-piperazine (300 mmol), and potassium carbonate (300 mmol) are suspended in acetonitrile (400 ml) and stirred under reflux for 6 days. After evaporation of the solvent, the residue is dissolved in water and extracted three times with diethylether. The extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatographic on silica gel with (CH2Cl2 first, then CH2Cl2/MeOH=15:1) as mobile phase. The product containing fractions are combined and evaporated. The residue is suspended in diethylether/pentane and the solid filtered of and dried (vacuum). A powder with mp. 105-107° C. is obtained.

reactant | 4-Fluorobenzoic acid methyl ester | 200 mmol | COC(C1=CC=C(C=C1)F)=O | C8H7FO2
reactant | 1-benzyl-piperazine | 300 mmol | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 300 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O | C19H22N2O2
